US06727248B2
N-(4-chlorobenzyl)-6-(chloromethyl)-8-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-6-(hydroxymethyl)-8-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide (4.89 g), DMAP (209 mg) and collidine (1.59 mL) in 173 mL anhydrous DMF is heated to 65° C. to solubilize the starting material. To this solution is added methanesulfonyl chloride (2.77 mL) at room temperature. The reaction is heated at 65° C. for 2 h, then allowed to cool to room temperature. The reaction is poured into H2O (300 mL) to precipitate the product. The solid is filtered and recrystallized from CH2Cl2/hexanes to afford 4.74 g (93%) of the desired product as a white solid.

reactant | N-(4-chlorobenzyl)-6-(hydroxymethyl)-8-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 4.89 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CO)I)C)C=C1 | C19H16ClIN2O3
reactant | collidine | 1.59 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methanesulfonyl chloride | 2.77 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | H2O | 300 mL | O | H2O
catalyst | DMAP | 209 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 173 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-6-(chloromethyl)-8-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 4.74 g, 93% | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CCl)I)C)C=C1 | C19H15Cl2IN2O2
